### PR TITLE
Split ssralg.v

### LINKED ISSUE #1275: Split ssralg.v
After merging #1125 and #1256, ssralg.v would be about 7k lines long. So, I propose to split it by introducing a new file dedicated to the structures with multiplicative inverse (or Euclidean division, see https://github.com/math-comp/math-comp/issues/742#issuecomment-875410353).

Since MC still lacks the "semi" counterpart of structures with `GRing.inv` (`unitRingType`, `comUnitRingType`, `unitAlgType`, `comUnitAlgType`, `idomainType`, and `fieldType` at least), I think this is the best way to cut it into two.

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Following the [discussion](https://github.com/math-comp/math-comp/wiki/Minutes-2025-11-12#splitting-ssralgv-1275) during a MathComp meeting, I propose splitting `ssralg.v` into the following files:
- `alg_theory/algebra.v` contains the (semi)ring, (semi)module, and (semi)algebra structures below `unitRingType`.
- `alg_theory/divalg.v` contains the structures with division (`unitRingType` and above, but below `decFieldType`).
- `alg_theory/decfield.v` contains the reflection of the first-order theory of `unitRingType`, `decFieldType`, and `closedFieldType`.
- `alg_theory/ssralg.v` re-exports the contents of the above files, and contains most of the deprecation abbreviations from old `ssralg.v`. This file should act as the compatibility layer.

**I'm still looking for a better name for `alg_theory/algebra.v`,** but `ring.v` is currently taken by Algebra Tactics. I think it makes sense to rename `ring.v` of Algebra Tactics to, say, `ring_tactics.v`. However, it's going to take a while because we need to go through the following steps:
1. renaming `ring.v` to `ring_tactics.v` and deprecating the former in Algebra Tactics,
2. removing the deprecated `ring.v` in Algebra Tactics (after waiting for at least a few months), and
3. renaming `alg_theory/algebra.v` to `alg_theory/ring.v` in MathComp.

I think we should eventually move `ring_quotient.v`, `countalg.v`, and `finalg.v` to `alg_theory` too. The contents of `alg_theory/*.v` should eventually be re-exported from `alg_theory/all.v` (cf. #1505), and then, `alg_theory/ssralg.v` should probably be deprecated and removed.

This change will probably enable us to:
- add more structures with division: `unitSemiRingType`, Euclidean domains, etc., and
- reorder the declarations in the same way as `order.v`: all the structures first, theory, factories, then instances.

Closes #1275.

##### Dependency

- #1506

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/alg/algebra.v [hunk 1]
```diff
@@ -689,9 +560,9 @@ Module Export Dummy.
 Module GRing := Algebra.
 End Dummy.
 
-Module Import GRing.
+Import Algebra.
 
-Export Algebra.
+Module Import GRing.
```
Comment (pi8027) [inline algebra/alg/algebra.v:582]: Since we are not supposed to import the `GRing` module, we don't need to reexport the `Algebra` module from the `GRing` module in principle. For the same reason, I didn't put any reexportation stuff in `alg_theory/ssralg.v`.

As a result of this change, I discovered `Import GRing` in `zmodp.v` and `alt.v`, and I will probably discover more in CI.

File: algebra/alg/divalg.v [hunk 2]
```diff
@@ -0,0 +1,2511 @@
...
+  (SubIntegralDomain_isSubField.Build _ _ U (frefl _))
+  (format "[ 'SubIntegralDomain_isSubField'  'of'  U  'by'  <: ]")
+  : form_scope.
+
+End SubExports.
+HB.export SubExports.
+
+Module Theory.
+
+Export GRing.Theory.
```
Comment (pi8027) [inline algebra/alg/divalg.v:1270]: On the other hand, the `GRing.Theory` module of `divalg.v` should reexport the `GRing.Theory` module of `algebra.v`. So we should definitely avoid importing `divalg.v` and `algebra.v` in the wrong order.

**Review by pi8027 — COMMENTED** [review]
A few remarks about the new module layout.

File: algebra/alg/divalg.v (hunk 2 above)
Comment (pi8027) [reply algebra/alg/divalg.v:1270]: Perhaps, the same principle applies to the `Num.Theory` modules: the ones introduced later should reexport the ones introduced earlier, so that we don't have to specify which `Num.Theory` module we want to import, e.g., `Import numdomain.Num.Theory`. @proux01 @CohenCyril

**Comment by pi8027** [comment]
Nix CI looks a bit unstable right now, but real-closed is an actual breakage:
```
File "./theories/ordered_qelim.v", line 443, characters 13-18:
Error: The variable add0r was not found in the current environment.
```

**Comment by pi8027** [comment]
Apparently, `ordered_qelim.v` depends on the reflection stuff defined in `ssralg.v` and thus imports `GRing`. So I probably need to reexport the `GRing` modules for the time being.

**Comment by pi8027** [comment]
I'm taking advantage of this PR to isolate the deprecation stuff in `ssralg.v`. Since the largest file (`algebra.v`) is 4.5k lines long, I'm already quite happy with the result.

File: algebra/alg_theory/algebra.v [hunk 3]
```diff
@@ -596,38 +491,16 @@ From mathcomp Require Export nmodule.
...
 Set Implicit Arguments.
 Unset Strict Implicit.
 Unset Printing Implicit Defensive.
 
 Declare Scope ring_scope.
-Declare Scope term_scope.
+Delimit Scope ring_scope with R.
+Local Open Scope ring_scope.
+
 Declare Scope linear_ring_scope.
```
Comment (pi8027) [inline algebra/alg_theory/algebra.v]: This notation scope is unused.

File: algebra/alg_theory/algebra.v [hunk 4]
```diff
@@ -3254,2004 +2824,213 @@ HB.instance Definition _ := isScalable.Build R U A *:%R (a \*o f)
...
-End UnitRingExports.
-HB.export UnitRingExports.
+Lemma lalgMixin
+  (R : pzRingType) (A : pzLalgType R) (B : lmodType R) (f : B -> A) :
+  phant B -> injective f -> scalable f ->
+  forall mulB, {morph f : x y / mulB x y >-> x * y} ->
+  forall a u v, a *: (mulB u v) = mulB (a *: u) v.
+Proof.
+by move=> _ injf fZ mulB fM a x y; apply: injf; rewrite !(fZ, fM) scalerAl.
+Qed.
```
Comment (pi8027) [inline algebra/alg_theory/algebra.v]: Do we really need this lemma?

File: algebra/alg_theory/algebra.v [hunk 5]
```diff
@@ -3254,2004 +2824,213 @@ HB.instance Definition _ := isScalable.Build R U A *:%R (a \*o f)
...
 
-Definition unit_pred {R : unitRingType} :=
-  Eval cbv [ unit_subdef NzRing_hasMulInverse.unit_subdef ] in
-    (fun u : R => unit_subdef u).
-Arguments unit_pred _ _ /.
-Definition unit {R : unitRingType} := [qualify a u : R | unit_pred u].
+Lemma comRingMixin (R : comPzRingType) (T : pzRingType) (f : T -> R) :
+  phant T -> injective f -> {morph f : x y / x * y} -> commutative (@mul T).
+Proof. by move=> _ inj_f fM x y; apply: inj_f; rewrite !fM mulrC. Qed.
```
Comment (pi8027) [inline algebra/alg_theory/algebra.v]: Same here

File: algebra/alg_theory/algebra.v [hunk 6]
```diff
@@ -3254,2004 +2824,213 @@ HB.instance Definition _ := isScalable.Build R U A *:%R (a \*o f)
...
-Local Notation "x ^-1" := (inv x).
-Local Notation "x / y" := (x * y^-1).
-Local Notation "x ^- n" := ((x ^+ n)^-1).
+Lemma algMixin
+  (R : pzRingType) (A : pzAlgType R) (B : pzLalgType R) (f : B -> A) :
+  phant B -> injective f -> {morph f : x y / x * y} -> scalable f ->
+  forall k (x y : B), k *: (x * y) = x * (k *: y).
+Proof.
+by move=> _ inj_f fM fZ a x y; apply: inj_f; rewrite !(fM, fZ) scalerAr.
+Qed.
```
Comment (pi8027) [inline algebra/alg_theory/algebra.v]: Same here

File: algebra/alg/algebra.v [hunk 7]
```diff
@@ -596,13 +489,18 @@ From mathcomp Require Export nmodule.
...
+(* GRing module SHOULD NOT be imported and gives only qualified access to     *)
+(* definitions and lemmas, e.g., GRing.mul and GRing.mul0r. The GRing.Theory  *)
+(* submodule can be imported to obtain unqualified access to the lemmas and   *)
+(* some definitions, e.g., monoid_morphism.                                   *)
+(*   The notations are defined in ring_scope (delimiter %R), except that the  *)
+(* notations for types, e.g., {rmorphism R -> S} and functions, e.g., *%R,    *)
+(* are respectively defined in type_scope and function_scope.                 *)
 (*   This library also extends the conventional suffixes described in library *)
 (* ssrbool.v with the following:                                              *)
 (*   0 -- ring 0, as in addr0 : x + 0 = x                                     *)
```
Comment (pi8027) [inline algebra/alg/algebra.v:506]: This looks a bit redundant with `CONTRIBUTING.md`. If we keep them, some part should actually be moved to `nmodule.v`...

File: algebra/alg_theory/divalg.v [hunk 8]
```diff
@@ -0,0 +1,1526 @@
...
+
+Section Test3.
+
+Variables (F : fieldType) (S : divringClosed F).
+
+HB.instance Definition _ := [SubRing_isSubComNzRing of B S by <:].
+HB.instance Definition _ := [SubComUnitRing_isSubIntegralDomain of B S by <:].
+HB.instance Definition _ := [SubIntegralDomain_isSubField of B S by <:].
+
+End Test3.
```
Comment (pi8027) [inline algebra/alg_theory/divalg.v]: We should probably move them (and `Test0` in `algebra.v`) to `test_suite/`.

File: algebra/alg/algebra.v (hunk 1 above)
Comment (pi8027) [reply algebra/alg/algebra.v:582]: I found that this change breaks `ordered_qelim.v` in real-closed because it imports `GRing`, and its "right" fix is nontrivial. So, I put the reexportation back (with FIXME comments) for the moment.

File: algebra/alg_theory/algebra.v (hunk 3 above)
Comment (pi8027) [reply algebra/alg_theory/algebra.v]: Also, we don't need to declare `ring_scope` here, since it's already in `nmodule.v`.

File: algebra/alg_theory/algebra.v (hunk 4 above)
Comment (pi8027) [reply algebra/alg_theory/algebra.v]: It looks like one of the  `subType` factories subsumed this lemma during the HB port. I guess `SubSemiRing_SubLSemiModule_isSubLSemiAlgebra` is the one, but it's not entirely clear to me.

File: algebra/alg_theory/algebra.v (hunk 5 above)
Comment (pi8027) [reply algebra/alg_theory/algebra.v]: `SubSemiRing_isSubComSemiRing`?

File: algebra/alg_theory/algebra.v (hunk 6 above)
Comment (pi8027) [reply algebra/alg_theory/algebra.v]: `SubLSemiAlgebra_isSubSemiAlgebra`?

File: algebra/alg_theory/algebra.v (hunk 3 above)
Comment (pi8027) [reply algebra/alg_theory/algebra.v]: I removed both scope declarations from `algebra.v`.

File: algebra/alg_theory/algebra.v (hunk 4 above)
Comment (pi8027) [reply algebra/alg_theory/algebra.v]: I deprecated this lemma and moved it to `ssralg.v`. Same for the two lemmas below.

File: algebra/alg_theory/divalg.v (hunk 8 above)
Comment (pi8027) [reply algebra/alg_theory/divalg.v]: Done.

**Comment by pi8027** [comment]
I renamed `alg_theory` to `alg`.

File: algebra/alg/algebra.v (hunk 7 above)
Comment (CohenCyril) [reply algebra/alg/algebra.v:506]: Yes we can refactor documentation redundancies later.

Comment (pi8027) [reply algebra/alg/algebra.v:506]: Yes, let's do so since this is also related to #1505.

File: algebra/alg/algebra.v [hunk 9]
```diff
@@ -596,13 +489,18 @@ From mathcomp Require Export nmodule.
...
-(* and in the submodule GRing.Theory, which can be imported when unqualified  *)
-(* access to the theory is needed (GRing.Theory also allows the unqualified   *)
-(* use of additive, linear, Linear, etc). The main GRing module should NOT be *)
-(* imported.                                                                  *)
-(*   Notations are defined in scope ring_scope (delimiter %R), except term    *)
-(* and formula notations, which are in term_scope (delimiter %T).             *)
+(*                                                                            *)
+(* * Module layout, the notation scopes, and the naming convention            *)
+(*                                                                            *)
+(* The following remarks apply to divalg.v and decalg.v, besides algebra.v.   *)
```
Comment (proux01) [inline algebra/alg/algebra.v]:
```suggestion
(* The following remarks apply to divalg.v and decfield.v, besides algebra.v.   *)
```

File: doc/changelog/02-changed/1504-split-ssralg.md [hunk 10]
```diff
@@ -0,0 +1,29 @@
...
+    However, users need to pay attention to the following points in porting
+    their code to the new files:
+    * The new files, e.g., `divalg.v`, do not re-export their dependencies,
+      e.g., `algebra.v` and `nmodule.v`. Users need to explicitly import the
+      files they need.
+    * Each of the new files provide `GRing` and `GRing.Theory` modules as in the
+      old `ssralg.v`, the `GRing.Theory` modules re-export the other
+      `GRing.Theory` modules that the former ones depend on. Therefore,
+      importing `GRing.Theory` without any qualifier, e.g.,
+      `divalg.GRing.Theory` should suffice for importing all the required
```
Comment (proux01) [inline doc/changelog/02-changed/1504-split-ssralg.md]:
```suggestion
      importing `GRing.Theory` without any qualifier (e.g., not
      `divalg.GRing.Theory`) should suffice to import all the required
```

**Comment by proux01** [comment]
Let's merge when CI is green
